US09340556B2
To a suspension of ethyl 1-ethyl-5-hydroxy-6-((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate (1.5 g, 3.77 mmol) in a mixture of Methanol (60.0 mL) and Water (20 mL) was added KOH (0.424 g, 7.55 mmol) portionwise. The resulting mixture was stirred under reflux for 1 h. The mixture was cooled down to r.t. and concentrated. Water was added and the mixture was adjusted to pH˜2 using 6 N HCl (aq.). The precipitates were collected by filtration and dried in air to afford 1-ethyl-5-hydroxy-6-((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (1.35 g, 3.65 mmol, 97% yield) as a light yellow solid. LCMS: (M+H)+: 370.2.

reactant | ethyl 1-ethyl-5-hydroxy-6-((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 3.77 mmol, 1.5 g | C(C)N1C=C(C(C2=C(C(=CC=C12)OCC1=CC=C(C=C1)OC)O)=O)C(=O)OCC | C22H23NO6
reactant | KOH | 7.55 mmol, 0.424 g | [OH-].[K+]
solvent | Methanol | 60.0 mL | CO | CH4O
solvent | Water | 20 mL | O | H2O
product | 1-ethyl-5-hydroxy-6-((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 3.65 mmol, 1.35 g, 97% yield | C(C)N1C=C(C(C2=C(C(=CC=C12)OCC1=CC=C(C=C1)OC)O)=O)C(=O)O | C20H19NO6
